US07745641B2
In a similar manner to Step 2 of Example 16, 3-methoxymethoxy-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide (7.50 g, 22.8 mmol) was dissolved in THF (200-mL), and the solution was treated with TMEDA (11.0 mL, 72.9 mmol), sec-butyl lithium-hexane solution (0.95 mol/L, 77.0 mL, 73.2 mmol) and DMF (3.88 mL, 50.1 mmol), followed by purification by slurry using isopropylether and hexane to obtain 4-methoxymethoxy-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (6.41 g, yield 79%).

reactant | 3-methoxymethoxy-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide | 22.8 mmol, 7.50 g | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1OC | C19H23NO4
reactant | TMEDA | 72.9 mmol, 11.0 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 50.1 mmol, 3.88 mL | CN(C)C=O | C3H7NO
solvent | THF | 200-mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 6.41 g, yield 79% | COCOC1=C2C(N(C(C2=CC=C1OC)=O)C(C)(C1=CC=CC=C1)C)O | C20H23NO5
